Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])=[O:6].[O:1]([C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[H:7],3.45735619167
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.69629872645
[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8],-10.54638672
[C:2]#[C:3][C:4]([C:5][O:6][H:7])[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[O:8][H:9],-4.81211187425
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10],3.99689248462
[C:7]([H:8])[H:9].[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:10]([H:11])=[C:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13],-4.66715542667
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:2]([H:3])[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1],7.779635344989999
[C:1]=[C:2]([H:3])[H:4].[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-2.71878286007
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:10].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],4.2832061539599975
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.06558537981
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]#[C:5][H:6],0.931417042741
[C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.724585587130001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],2.84894213621
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:9][H:10].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.8165949457
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1][O:2][C:3]([H:4])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.4285250368
[C:1][C@@:2]1([H:3])[O:4][C@:5]1([H:6])[C:7](=[O:8])[H:9]>>[C:1]=[C:2]([H:3])[C@:5]([O:4])([H:6])[C:7](=[O:8])[H:9],-0.0958607436496
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.35123798298
[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-3.85964708314
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]([C:4]([H:5])([H:6])[H:7])([H:9])[H:10].[O:1][C:2]#[C:8][C:11]([H:12])([H:13])[H:14],3.85236408505
[C:1]#[C:2][C:3][O:7][H:5].[O:4]=[C:6][H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6](=[O:7])[H:8],-3.73725585552
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],1.50526912131
[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[O:1],7.664982914219999
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],0.782565854797
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[H:1][O:2],5.14046395839
[H:1][C:2]([H:3])([C:4])[C:10]([C:7]([C:6]=[O:5])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1([H:3])[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]1([H:11])[H:12],-0.4422546563100001
[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-10.60613938
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-7.028187090289999
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.76377282916
[O:1]=[C:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:5])=[C:9]([H:10])[H:11].[O:1][C:2]#[C:4][C:6]([H:7])([H:8])[H:12],4.62023445971
